Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Cerebral contusion

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old man who had an unwitnessed fall at ~15:00 
on ___. He was last seen by his wife, when he was walking 
outside.  He was found 5
minutes later, lying face down in driveway with left temporal 
laceration, attempting to get up. He was unable to recount 
events surrounding fall.  He denied lightheadedness and chest 
pain and palpitations.  He had no prior syncopal events.  He was 
taken to OSH where a CT head showed left frontal contusion.  He 
takes warfarin as stroke prophylaxis for a-fib.  He received 10 
mg Vit K at the OSH. He was transfered to ___ without 
acute neurologic deficit. 

 
Past Medical History:
HTN
hypercholesterolemia
hypothyroid
a-fib
GERD

 
Social History:
___
Family History:
NC
 
Physical Exam:
On Admission: 
T:97.1  BP: 116/68  HR:72AF   R:10    O2Sats:94
C-collar in place
Awake and alert
cooperative with exam
normal affect
Oriented to person, place, and date
Speech fluent with good comprehension and repetition
Pupils equally round and reactive to light
Visual fields are full to confrontation.
Extraocular movements intact bilaterally without nystagmus
Facial strength and sensation intact and symmetric.
Palatal elevation symmetrical.
Tongue midline without fasciculations.
Strength full power ___ throughout
No pronator drift
Intact to light touch, propioception, pinprick bilaterally in 
ext

Reflexes: B T Br Pa Ac
Right     1      1  3 beats clonus
Left      1      1  2 beats clonus
Toes upgoing bilaterally
CT Head with left frontal cerebral contusion, 3 small foci of
intraparenchymal blood 2mm each x 3 foci.  No mass effect or
edema.  
CT C-spine with multi-level degenerative arthropathy,
degenerative fusion ___, ossification of the PLL at C5-6 with
canal stenosis, grade 1 anterolisthesis C7-T1.  

At time of Discharge: he had some left ___ ecchymosis 
and edema. He had left upper extremity weakness throughout with 
4 to 4+. This is his basline per his wife and self. 
 
Pertinent Results:
CT HEAD W/O CONTRAST ___ --  1. Unchanged small foci of 
left anterior frontal parenchymal hemorrhage with mild edema. 
Though the history of trauma suggests hemorrhagic contusions, 
the round appearance of one of the foci raises the question of 
an underlying mass.   
2. New left paratentorial subdural hemorrhage. 
3. Previously suspected subarachnoid hemorrhage in the right 
sylvian fissure is no longer evident, as discussed above. 
4. Increased left frontal scalp and periorbital hematoma. 
5. Persistent fluid in the right maxillary sinus. Please 
correlate 
clinically whether the patient may have acute sinusitis. 

CT SINUS/MANDIBLE/MAXILLOFACIAL W/O CONTRAST ___
IMPRESSION: No fractures with left periorbital hematoma without 
retrobulbar 
collection. Left frontal IPH, incompletely assessed. 

___ 08:45PM   GLUCOSE-157* UREA N-25* CREAT-1.0 SODIUM-144 
POTASSIUM-3.3 CHLORIDE-105 TOTAL CO2-27 ANION GAP-15
___ 08:45PM   estGFR-Using this
___ 08:45PM   cTropnT-<0.01
___ 08:45PM   WBC-8.6 RBC-4.49* HGB-13.4* HCT-39.6* MCV-88 
MCH-29.8 MCHC-33.7 RDW-14.8
___ 08:45PM   NEUTS-75.5* ___ MONOS-4.4 EOS-1.3 
BASOS-0.4
___ 08:45PM   PLT COUNT-226
___ 08:45PM   ___ PTT-29.6 ___
___ 08:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:45PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 08:45PM URINE  RBC-12* WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 08:45PM URINE  HYALINE-2*

 
Brief Hospital Course:
Mr. ___ was admitted to the Neurosurgery service on ___ for 
treatment of a left frontal contusion. On presentation, the 
patient was without acute neurologic deficit. His INR was 
elevated on initial labs at 1.9. Coumadin was reversed with 
Vit-K and FFP. He was admitted to step-down for neurosurgical 
observation with q1 hour neuro check, and we continued C-collar 
for C-spine protection. He received a repeat CT head w/o 
contrast on the morning of ___. Imaging demonstrated a small 
foci of left anterior frontal parenchymal hemorrhage with mild 
edema, 8mm thick left paratentorial subdural hemorrhage, 
increased left frontal scalp and periorbital hematoma, 
persistent fluid in the right maxillary sinus. He remained 
stable.
  On ___, the patient was alert, oriented, with LUE weakness 
on exam. INR level was 1.4 and the last FFP unit was held. 
Patient received flex /ext X-rays to evaluate C-spine stability. 
He had no further events.
 On ___, the patient was alert, oriented, and had a stable 
exam and lab values. Follow-up on C-spine flex/extension films 
correlated with a non-focal neuro exam and no pain on exam of 
C-spine allowed for C-spine precaution clearance and the 
patient's C-collar was discontinued. The patient was seen by 
Physical Therapy to evaluate for the need for a ___ 
facility or home services with physical therapy. He was cleared 
for discharge home on ___. 
 
Medications on Admission:
warfarin 5 mg PO daily
losartan 100 mg PO daily
amiloride 5 mg PO daily
pravastatin 60 mg PO daily
omeprazole 20 mg PO daily
amlodipine 10 mg PO daily
thyroxine 112.5 mcg PO daily
advair inhaler

 
Discharge Medications:
1. pravastatin 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. losartan 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
5. amiloride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
8. oxycodone 5 mg Capsule Sig: ___ Capsules PO every six (6) 
hours.
Disp:*60 Capsule(s)* Refills:*0*
9. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain: max 4000mg per day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L frontal contusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Do not drive or fly until you are seen in follow up. 

•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 
•You were on coumadin, do not take this until you follow up 
with us.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___